Name:  ___                  Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: ORTHOPAEDICS
 
Allergies: 
Codeine / Bee Pollens / Fish Product Derivatives / Benadryl
 
Attending: ___
 
Chief Complaint:
left leg cellulitis
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ y/o with charcot foot collapse presented to clinic for eval 
after getting sunburn. Worried about impending infection.
 
Past Medical History:
charcot foot left,IDDM,aka right 
 
Social History:
___
Family History:
NC
 
Physical Exam:
Afebrile, All vital signs stable 
General: NCAT, NAD

Pulm: lungs CTA bilaterally, no w/r/r

Card:s1/s2 clear no m/g/r

Abd: soft NT/ND, +BS

Ext: incision C/D/I calf nt nvi distally

 
Brief Hospital Course:
Ms. ___ was admitted to ___ on ___ for  evaluation of 
impending cellulitis on left leg. On the floor,she remained 
stable. Her pain was well controlled. She progressed with 
physical therapy to improve her strength and mobility. She 
continued to make steady progress. Infectious disese and 
Vascular surgery were consulted.No surgical intervention was 
indicated. She was discharged home with services in stable 
condition. 
 
Medications on Admission:
Atorvastatin 10', Lasix 20', Alprazolam prn, ISS, Lamotrigine 
200'', Metformin 850'',Percocet prn, Colace 100'',Bisacodyl prn  

___ prn  

 
Discharge Medications:
1. Docusate Sodium 100 mg Capsule Sig: One (1) Capsule PO BID (2 
times a day).  
2. Acetaminophen 325 mg Tablet Sig: Two (2) Tablet PO Q6H (every 
6 hours) as needed for pain.  
3. Alprazolam 1 mg Tablet Sig: One (1) Tablet PO TID (3 times a 
day) as needed for anxiety.  
4. Atorvastatin 10 mg Tablet Sig: One (1) Tablet PO DAILY 
(Daily).  
5. Furosemide 20 mg Tablet Sig: One (1) Tablet PO DAILY (Daily). 
 
6. Lamotrigine 100 mg Tablet Sig: Two (2) Tablet PO BID (2 times 
a day).  
7. Oxycodone-Acetaminophen ___ mg Tablet Sig: ___ Tablets PO 
Q4H (every 4 hours) as needed for pain.
Disp:*70 Tablet(s)* Refills:*0*
8. Keflex ___ mg Capsule Sig: Two (2) Capsule PO every eight (8) 
hours for 10 days.
Disp:*qs Capsule(s)* Refills:*0*

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Left leg cellulitis

 
Discharge Condition:
Stable

 
Discharge Instructions:
If you experience any shortness of breath, new redness, 
increased swelling, pain, or drainage, or have a temperature 
>101, please call your doctor or go to the emergency room for 
evaluation. 

Keep your wound clean and dry.  Use skin wash to area, dry and 
apply duoderm ointment followed by adaptic.  Cover with dry 
sterile gauze.

You may not bear weight on your left leg.  Please use your 
crutches/walker for ambulation. 

Please resume all of the medications you took prior to your 
hospital admission. Take all medication as prescribed by your 
doctor.

You have been prescribed a narcotic pain medication.  Please 
take only as directed and do not drive or operate any machinery 
while taking this medication.  There is a 72 hour ___ 
through ___, 9am to 4pm) response time for prescription refil 
requests.  There will be no prescription refils on ___, 
___, or holidays.  Please plan accordingly.    

Feel free to call our office with any questions or concerns. 
 
Followup Instructions:
___